US07176216B2
N-Cyclopropylmethyl-N-[7-iodo-2-(methylsulfanyl)pyrazolo[1,5-a]pyridin-3-yl]amine
To a solution of the crude tert-butyl N-cyclopropylmethyl-N-[7-iodo-2-(methylsulfanyl)pyrazolo[1,5-a]pyridin-3-yl]carbamate dissolved in ethyl acetate (1 mL) was added 4N hydrochloric acid/ethyl acetate (10 mL), and the reaction mixture was stirred for 2 hours at room temperature. After completion of the reaction, saturated aqueous sodium bicarbonate was added to the reaction mixture while cooling with ice for neutralization. The reaction mixture was extracted with ethyl acetate, and after washing the organic extract with water and brine, it was dried over anhydrous magnesium sulfate and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (20 g) and the title compound (506 mg) was obtained as a yellow oil from the ethyl acetate:n-hexane (1:3) fraction.

reactant | tert-butyl N-cyclopropylmethyl-N-[7-iodo-2-(methylsulfanyl)pyrazolo[1,5-a]pyridin-3-yl]carbamate | C1(CC1)CN(C(OC(C)(C)C)=O)C=1C(=NN2C1C=CC=C2I)SC | C17H22IN3O2S
reactant | hydrochloric acid ethyl acetate | 4N, 10 mL | Cl.C(C)(=O)OCC
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 1 mL | C(C)(=O)OCC | C4H8O2
product | N-Cyclopropylmethyl-N-[7-iodo-2-(methylsulfanyl)pyrazolo[1,5-a]pyridin-3-yl]amine | 506 mg | C1(CC1)CNC=1C(=NN2C1C=CC=C2I)SC | C12H14IN3S
